US04419352
Diethyl 6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate
Methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate (1.0 g) and diethyl oxalate (3.7 mls) in dry dimethylformamide (25 mls) was added to ether washed 50% sodium hydride (0.65 g) suspended in dry dimethyl formamide (25 mls) under nitrogen with stirring. The reaction mixture was stirred for 5 hours at room temperature, poured into ethyl acetate, aqueous acetic acid was added and the organic layer separated, washed well with water and dried. The solvent was evaporated, the residue dissolved in dry dioxan (100 mls) and dry hydrogen chloride gas passed through the solution for 20 minutes. The reaction mixture was poured into ethyl acetate, washed well with water, saturated sodium bicarbonate solution then water again and dried. The solvent was evaporated and the residue triturated with 40-60 petroleum ether to give 0.9 g of the title product. The structure was confirmed by NMR and MS evidence. The product was converted to the free acid and the disodium salt using the techniques of Example 1(b) and (c).

reactant | Methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate | 1.0 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
reactant | diethyl oxalate | 3.7 mls | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 25 mls | CN(C=O)C | C3H7NO
product | Diethyl 6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 0.9 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OCC | C21H20ClNO6
